US09403798B2
(3R,4R)-4-(Dibenzylamino)pyrrolidin-3-ol
To tert-butyl (3R,4R)-3-(dibenzylamino)-4-hydroxy-pyrrolidine-1-carboxylate (350 mg, 0.91 mmol) synthesized in Reference Synthesis Example 71, 4 M hydrogen chloride/1,4-dioxane solution (3 mL) was added and the resultant solution was stirred at room temperature. The reaction solution was concentrated under reduced pressure and chloroform was added to the obtained residue, followed by washing the resultant mixture with saturated sodium bicarbonate aqueous solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain a crude product (258 mg) of the title compound.

reactant | tert-butyl (3R,4R)-3-(dibenzylamino)-4-hydroxy-pyrrolidine-1-carboxylate | 0.91 mmol, 350 mg | C(C1=CC=CC=C1)N([C@@H]1CN(C[C@H]1O)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C23H30N2O3
reactant | hydrogen chloride 1,4-dioxane | 4 M, 3 mL | Cl.O1CCOCC1
product | (3R,4R)-4-(Dibenzylamino)pyrrolidin-3-ol | 258 mg | C(C1=CC=CC=C1)N([C@H]1[C@@H](CNC1)O)CC1=CC=CC=C1 | C18H22N2O
